US09403846B2
Step 5. Synthesis of rel-(3R,3aR,5R)-5-cyclopropyl-3-(methoxymethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C38)
Sodium hydride (60% in oil, 395 mg, 9.88 mmol) was slurried in N,N-dimethylformamide (30 mL) and cooled in an ice bath. A solution of rel-[(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazol-3-yl]methanol (C37) (1.30 g, 6.59 mmol) in minimal N,N-dimethylformamide was added drop-wise, and the reaction mixture was stirred at 0° C. for 30 minutes. Iodomethane (0.45 mL, 7.2 mmol) was then added in a drop-wise manner, and the reaction was allowed to proceed for an additional 30 minutes at 0° C. Water was added, and the mixture was warmed to room temperature and extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatography on silica gel (Gradient: 0% to 60% ethyl acetate in heptane) provided the product as an oil. Yield: 1.0 g, 4.7 mmol, 71%. LCMS m/z 212.1 [M+H+].

reactant | Sodium hydride | 9.88 mmol, 395 mg | [H-].[Na+]
reactant | rel-[(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazol-3-yl]methanol | 6.59 mmol, 1.30 g | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2CO)CO1 | C10H15NO3
reactant | Iodomethane | 7.2 mmol, 0.45 mL | IC | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | rel-(3R,3aR,5R)-5-cyclopropyl-3-(methoxymethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2COC)CO1 | C11H17NO3
